US04551452
4-[1-(Hexanoyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide
By the procedure of Example 11, piroxicam (2.00 g, 6.0 mmol) and alpha-chloroethyl hexanoate (3.51 g, 19.6 mmol) were converted to chromatographed title product as yellow oil which was crystallized from toluene/hexane (1.21 g, 2.5 mmol, 42.1%): mp 62°-65° C.; IR (KBr) 1755, 1676 cm-1 ; 1H NMR (CDCl3) delta 0.81 (t, J=7 Hz, 3H), 1.00-1.30 (m 4H), 1.35-1.53 (m, 2H), 1.73 (d, J=6 Hz, 3H), 2.08-2.32 (m, 2H), 3.12 (s, 3H), 6.39 (q, J=6 Hz, 1H), 7.05-7.32 (m, 1H), 7.57-7.95 (m, 5H), 8.30-8.43 (m, 2H), 9.58 (br s, 1H): precise mass calcd for C23H28N3O6S m/e (P+ +H) 474.1703, found 474.1645.

reactant | piroxicam | 6.0 mmol, 2.00 g | CN1C(=C(C=2C=CC=CC2S1(=O)=O)O)C(=O)NC=3C=CC=CN3 | C15H13N3O4S
reactant | alpha-chloroethyl hexanoate | 19.6 mmol, 3.51 g | C(CCCCC)(=O)OC(C)Cl | C8H15ClO2
reactant | toluene hexane | 2.5 mmol, 1.21 g | C1(=CC=CC=C1)C.CCCCCC
reactant | KBr | [K+].[Br-]
product | 4-[1-(Hexanoyloxy)ethoxy]-2-methyl-N-(2-pyridyl)-2H-1,2-benzothiazine-3-carboxamide 1,1-Dioxide | C(CCCCC)(=O)OC(C)OC1=C(N(S(C2=C1C=CC=C2)(=O)=O)C)C(=O)NC2=NC=CC=C2 | C23H27N3O6S
